US07812025B2
(1) 1-[3-(3-Thienyl)phenyl]piperazine
A mixed solution of 1-(3-bromophenyl)-piperazine (300 mg, 1.24 mmol), 3-thienylboronic acid (239 mg, 1.87 mmol), tetrakis(triphenylphosphine)palladium (173 mg, 0.149 mmol), 2N aqueous solution of sodium carbonate (4.98 ml, 9.95 mmol), and toluene (12 ml) was stirred at 95° C. for 15 hours under a nitrogen atmosphere. After cooling to room temperature, water was poured into the reaction solution, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduce pressure. The residue was purified by basic silica gel column chromatography (ethyl acetate) to give the titled compound 254 mg (83.5%) as an oil.

reactant | 1-(3-bromophenyl)-piperazine | 1.24 mmol, 300 mg | BrC=1C=C(C=CC1)N1CCNCC1 | C10H13BrN2
reactant | 3-thienylboronic acid | 1.87 mmol, 239 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 9.95 mmol, 4.98 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.149 mmol, 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 1-[3-(3-Thienyl)phenyl]piperazine | 254 mg, 83.5% | S1C=C(C=C1)C=1C=C(C=CC1)N1CCNCC1 | C14H16N2S
